US07241785B2
A mixture of methyl 4-bromo-5-oxo-5-phenylpentanoate (5.00 g), N-propylthiourea (2.01 g) and methanol (50 ml) was refluxed for 2 hrs. The reaction solvent was removed under reduced pressure, and the residue was dissolved in ethyl acetate. The obtained solution was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give methyl 3-[4-phenyl-2-[N-(1-propyl)amino]-5-thiazolyl]propionate (3.64 g, yield 70%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 67–68° C.

reactant | methyl 4-bromo-5-oxo-5-phenylpentanoate | 5.00 g | BrC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C12H13BrO3
reactant | N-propylthiourea | 2.01 g | C(CC)NC(=S)N | C4H10N2S
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-[4-phenyl-2-[N-(1-propyl)amino]-5-thiazolyl]propionate | 3.64 g, yield 70% | C1(=CC=CC=C1)C=1N=C(SC1CCC(=O)OC)NCCC | C16H20N2O2S
